US09029399B2
Preparation of Intermediate 5-Bromo-3-methyl-benzo[b]thiophene (I-24b)
Polyphosphoric acid (7 g) was added to a solution of 1-(4-bromo-phenylsulfanyl)-propan-2-one (I-24a: 2.0 g, 8.163 mmol) in toluene (10 mL) and the resulting mixture was heated to 100° C. for 5 hours. The reaction was monitored by TLC (100% hexane). The reaction mixture was cooled to room temperature, quenched with ice, basified with potassium carbonate (pH˜8) and extracted with ethyl acetate. The organic layer was concentrated to yield the crude product. Purification by column chromatography on silica gel (100% hexane) afforded 1.2 g of product (66% yield)

reactant | 1-(4-bromo-phenylsulfanyl)-propan-2-one | 8.163 mmol, 2.0 g | BrC1=CC=C(C=C1)SCC(C)=O | C9H9BrOS
reactant | hexane | CCCCCC | C6H14
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 5-Bromo-3-methyl-benzo[b]thiophene | 1.2 g, 66% yield | BrC1=CC2=C(SC=C2C)C=C1 | C9H7BrS
